US07638517B2
To a RT solution of N-methyl-3-phenyl-3-(1H-pyrrolo[3,2-b]pyridin-3-yl)-propionamide (25.3 mg, 0.091 mmol) in THF (5 mL) was added BH3.SMe2 (10 M in THF, 18 μL). The resulting mixture was refluxed for 2 h, cooled to RT, and quenched by addition of MeOH and HCl (concentrated, 3 drops). The mixture was then heated at reflux for 15 min, cooled to RT, concentrated, and purified via flash chromatography (DCM/MeOH/NH4OH), affording N-Methyl-[3-phenyl-3-(1H-pyrrolo[3,2-b]pyridin-3-yl)-propyl]-amine. MS M+H=266.

reactant | N-methyl-3-phenyl-3-(1H-pyrrolo[3,2-b]pyridin-3-yl)-propionamide | 0.091 mmol, 25.3 mg | CNC(CC(C1=CNC=2C1=NC=CC2)C2=CC=CC=C2)=O | C17H17N3O
reactant | SMe2 | 10 M, 18 μL | S(C)C | C2H6S
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | N-Methyl-[3-phenyl-3-(1H-pyrrolo[3,2-b]pyridin-3-yl)-propyl]-amine | CNCCC(C1=CNC=2C1=NC=CC2)C2=CC=CC=C2 | C17H19N3
